US07589076B2
3-Nitrophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
3-Nitrophenol (4.12 g, 29.6 mmol) was added as a solution in THF and dimethylaniline to a mixture of triphosgene (2.849 g, 9.6 mmol) in THF according to general procedure 3. Yield=5.53 g, 86%. m/z MH+=289.18. HPLC rt=11.78 min.

reactant | 3-Nitrophenol | 29.6 mmol, 4.12 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | triphosgene | 9.6 mmol, 2.849 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | THF | C1CCOC1 | C4H8O
product | 3-Nitrophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC(=CC=C1)[N+](=O)[O-] | C15H16N2O4
